US05866560
6.7 g of 11β-fluoro-7α-(5-hydroxypentyl)-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-trien-17-one in 70 ml of pyridine is stirred at room temperature with 6.0 g of p-toluenesulfonic anhydride for 3 hours. The solution is diluted with ethyl acetate, washed with saturated sodium chloride solution, dried and concentrated by evaporation in a vacuum. The crude product is chromatographed on silica gel with a hexane-ethyl acetate gradient. 5.7 g of 11β-fluoro-3-(tetrahydropyran-2-yloxy)-7α-(5-p-toluenesulfonyloxy-pentyl)-estra-1,3,5(10)-trien-17-one is obtained as foam.

reactant | 11β-fluoro-7α-(5-hydroxypentyl)-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-trien-17-one | 6.7 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCO)OC1OCCCC1 | C28H39FO4
reactant | p-toluenesulfonic anhydride | 6.0 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11β-fluoro-3-(tetrahydropyran-2-yloxy)-7α-(5-p-toluenesulfonyloxy-pentyl)-estra-1,3,5(10)-trien-17-one | 5.7 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCOS(=O)(=O)C1=CC=C(C=C1)C)OC1OCCCC1 | C35H45FO6S
